US07777047B2
ethyl 5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxylate
To a solution of ethyl 5-(2-methoxyethoxy)-7-[(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxylate (5.70 g) in N,N-dimethylformamide (50 mL) were added potassium carbonate (2.85 g) and methyl iodide (930 μL), and the mixture was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate, and washed with water and saturated brine, dried (MgSO4), and concentrated. The residue was subjected to basic silica gel column chromatography to give the title compound (5.67 g, yield 96%) as a colorless amorphous solid from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio). MS: 434 (MH+).

reactant | ethyl 5-(2-methoxyethoxy)-7-[(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxylate | 5.70 g | COCCOC=1C=C2C=C(NC2=C(C1)NS(=O)(=O)C1=NC=CC=C1)C(=O)OCC | C19H21N3O6S
reactant | potassium carbonate | 2.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 930 μL | CI | CH3I
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 5-(2-methoxyethoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxylate | 5.67 g, yield 96% | COCCOC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C1=NC=CC=C1)C)C(=O)OCC | C20H23N3O6S
